US08669255B2
tert-butyl (7S,8aS)-7-[(4-fluorobenzoyl)amino]hexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate
To (7S,8aS)-tert-butyl 7-aminohexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate (0.241 g, 1 mmol) in dichloromethane (6 mL) was added sodium carbonate (0.127 g, 1.2 mmol) and 4-fluorobenzoyl chloride (0.174 g, 1.1 mmol). The mixture was stirred at room temperature for 4 hours. The mixture was concentrated. The residue was purified by chromatography on silica gel (ethyl acetate, then ethyl acetate/methanol=10:1) to give the title compound. 1H NMR (300 MHz, CDCl3) δ ppm 1.40 (m, 1H), 1.47 (s, 9H), 1.63 (m, 2H), 2.05-2.20 (m, 2H), 2.50-2.65 (m, 2H), 3.00 (m, 2H), 4.20 (m, 2H), 4.70 (m, 1H), 6.68 (m, 1H), 7.10 (m, 2H), 7.80 (m, 2H); MS (ESI) m/z 364 (M+H)+.

reactant | (7S,8aS)-tert-butyl 7-aminohexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 1 mmol, 0.241 g | N[C@H]1C[C@@H]2N(CCN(C2)C(=O)OC(C)(C)C)C1 | C12H23N3O2
reactant | sodium carbonate | 1.2 mmol, 0.127 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-fluorobenzoyl chloride | 1.1 mmol, 0.174 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | tert-butyl (7S,8aS)-7-[(4-fluorobenzoyl)amino]hexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | FC1=CC=C(C(=O)N[C@H]2C[C@@H]3N(CCN(C3)C(=O)OC(C)(C)C)C2)C=C1 | C19H26FN3O3
